US07919518B2
To a suspension of 60% NaH (2.7 g; 0.07 mol) in toluene (200 ml) was added 1-benzyl-3-hydroxymethylindazole (10 g; 0.07 mol). The mixture was brought to the boiling point and left stirring at reflux for 1 hour. 4-chlorobenzyl chloride (14.4 g; 0.09 mol) was then added. The mixture was then stirred at reflux for 4 hours. The reaction was stopped by cooling the mixture to room temperature and adding water (50 ml). The organic phase was separated out and washed, respectively, with 2N HCl (50 ml) and water (5×50 ml). The solvent was evaporated off under reduced pressure. The crude residue thus obtained was purified by flash chromatography on silica gel, using as eluent a 3/1 hexane/ethyl acetate mixture. The product obtained was crystallized from a 5/1 hexane/ethyl acetate mixture to give 4.4 g of [1-(4-chlorobenzyl)-1H-indazol-3-yl]methanol.

reactant | NaH | 0.07 mol, 2.7 g | [H-].[Na+]
reactant | 1-benzyl-3-hydroxymethylindazole | 0.07 mol, 10 g | C(C1=CC=CC=C1)N1N=C(C2=CC=CC=C12)CO | C15H14N2O
reactant | 4-chlorobenzyl chloride | 0.09 mol, 14.4 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
reactant | water | 50 ml | O | H2O
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | [1-(4-chlorobenzyl)-1H-indazol-3-yl]methanol | 4.4 g | ClC1=CC=C(CN2N=C(C3=CC=CC=C23)CO)C=C1 | C15H13ClN2O
